US08022206B2
5-Fluoro-1,2,3,4-tetrahydronaphthalen-1-ol
A solution of 5-fluoro-3,4-dihydronaphthalen-1(2H)-one (1.26 mmol) in MeOH (4 mL) at 0° C. was quickly charged with a solution of sodium borohydride (3.23 mmol, 2.5 eq) in MeOH (2 mL). The reaction was stirred for 1.5 h from 0° C. to ambient temperature. The reaction was quenched with water and extracted with ether. All organic layers were combined and dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The crude was dissolved in minimal CH2Cl2 and was purified by chromatography on silica gel [0.5″×10″ glass column, eluting with neat CH2Cl2→5:1 CH2Cl2:EtOAc]. Fractions containing product were combined and concentrated in vacuo, giving the title material as a light yellow oil. 1H NMR (400 MHz, CDCl3) δ=1.73 (d, J=6.8 Hz, 1H), 1.75-1.90 (m, 2H), 1.91-2.10 (m, 2H), 2.61-2.86 (m, 2H), 4.67-4.83 (m, 1H), 6.90 (ddd, J=8.5, 8.5, 2.8 Hz, 1H), 7.06 (dd, J=8.5, 5.7 Hz, 1H), 7.17 (dd, J=9.6, 2.8 Hz, 1H). MS (ES+): m/z 149.02 (100) [MH+−OH]. HPLC: tR=2.96 min (ZQ3, polar—5 min).

reactant | 5-fluoro-3,4-dihydronaphthalen-1(2H)-one | 1.26 mmol | FC1=C2CCCC(C2=CC=C1)=O | C10H9FO
reactant | sodium borohydride | 3.23 mmol, 2.5 eq | [BH4-].[Na+]
solvent | MeOH | 4 mL | CO | CH4O
solvent | MeOH | 2 mL | CO | CH4O
product | 5-Fluoro-1,2,3,4-tetrahydronaphthalen-1-ol | FC1=C2CCCC(C2=CC=C1)O | C10H11FO
